US06350771B1
A suspension of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazole-3-carbonitrile (9.8 g) and N-iodosuccinimide (8.87 g) was heated at reflux in carbon tetrachloride for 3.5 hours, cooled and washed with sodium bisulfite solution, NaOH solution and water. The dried (magnesium sulfate) solution was evaporated and purified by chromatography on silica gel eluting with dichloromethane to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-iodo-1H-pyrazole-3-carbonitrile (4.0 g), m.p. 212-214 ° C.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-1H-pyrazole-3-carbonitrile | 9.8 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C11H5Cl2F3N4
reactant | N-iodosuccinimide | 8.87 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-iodo-1H-pyrazole-3-carbonitrile | 4.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
